US08071595B2
A solution of 5-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)-2-methoxybenzonitrile (0.15 g, 0.465 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.17 g, 0.465 mmol), and Cs2CO3 (0.75 g, 2.32 mmol) in toluene (6 mL) and water (3 mL) was degassed. Then, Pd(dppf)Cl2 (0.76 g, 0.090 mmol) was added under an inert atmosphere and the solution was again degassed. The reaction was then refluxed for 2 h, filtered through a pad of Celite® and the filtrate was diluted with EtOAc (40 mL). The combined organic layers were washed with water (20 mL) and brine (20 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4, 5-dihydrofuran-2-yl)-2-methoxybenzonitrile (125 mg, 58%) as a pale yellow solid. 1H NMR (500 MHz, d6-DMSO): δ 8.43 (d, J=8.5 Hz, 1H), 8.02 (t, J=7.9 Hz, 2H), 7.90 (s, 1H), 7.81-7.77 (m, 2H), 7.70 (d, J=8.2 Hz, 1H), 7.62 (t, J=8.2 Hz, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.19 (d, J=7.4 Hz, 2H), 7.12 (d, J=7.5 Hz, 2H), 5.40 (s, 2H), 3.95 (s, 3H), 1.46 (s, 6H). MS: [M+Na]: m/z=499.3, [M+H]: m/z=477.2. HPLC: 98%,

reactant | 5-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)-2-methoxybenzonitrile | 0.465 mmol, 0.15 g | BrC1=C(OC(C1=O)(C)C)C=1C=CC(=C(C#N)C1)OC | C14H12BrNO3
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 0.465 mmol, 0.17 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 2.32 mmol, 0.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.090 mmol, 0.76 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4, 5-dihydrofuran-2-yl)-2-methoxybenzonitrile | 125 mg, 58% | CC1(C(C(=C(O1)C=1C=CC(=C(C#N)C1)OC)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C30H24N2O4
